US06875760B2
To an ice-cooled solution of hydrazine hydrate (16 mL, 25% (w/w), 125 mmol) in THF (100 mL) was added a solution of 4-trifluoromethoxybenzoyl chloride (4.3 g, 19.2 mmol) in THF (50 mL) over 30 min. The solution was stirred for a further 30 min and then diluted with ether (200 mL). The turbid organic solution was then washed with water (3×200 mL) and brine (200 mL). After drying (Na2SO4), solvent was removed by rotary evaporation. The solid residue was dissolved in ethanol/water (1:1, 200 mL), insoluble material was filtered off, and the filtrate taken to dryness to leave 3.63 g (86%) of pure 4-trifluoromethoxybenzoic acid hydrazide.

reactant | hydrazine hydrate | 125 mmol, 16 mL | O.NN
reactant | 4-trifluoromethoxybenzoyl chloride | 19.2 mmol, 4.3 g | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 4-trifluoromethoxybenzoic acid hydrazide | 3.63 g, 86% | FC(OC1=CC=C(C(=O)NN)C=C1)(F)F | C8H7F3N2O2
